US09382228B2
A solution of 5-(4-((6-nitropyridin-3-yl)oxy)pyridin-2-yl)thiazole (0.18 g, 0.599 mmol) in EtOAc (10 mL) and MeOH (3 mL) was treated with 10% Pd/C (50% wet, 0.064 g, 0.060 mmol) and hydrogenated (1 atm) for 16 h. The solids were removed via filtration through diatomaceous earth, washed with EtOAc and the filtrate was concentrated to dryness to afford 5-((2-(thiazol-5-yl)pyridin-4-yl)oxy)pyridin-2-amine (150 mg, 74%). MS (ESI) m/z: 271.1 (M+H+).

reactant | 5-(4-((6-nitropyridin-3-yl)oxy)pyridin-2-yl)thiazole | 0.599 mmol, 0.18 g | [N+](=O)([O-])C1=CC=C(C=N1)OC1=CC(=NC=C1)C1=CN=CS1 | C13H8N4O3S
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 3 mL | CO | CH4O
catalyst | Pd/C | 0.060 mmol, 0.064 g | [Pd] | Pd
product | 5-((2-(thiazol-5-yl)pyridin-4-yl)oxy)pyridin-2-amine | 150 mg, 74% | S1C=NC=C1C1=NC=CC(=C1)OC=1C=CC(=NC1)N | C13H10N4OS
